US04064258
A mixture containing 0.05 mole of 7-carbethoxymethylene-bicyclo[2.2.1]heptane and 5 g. of 5% palladium on carbon catalyst and 250 ml. of ethanol is stirred under hydrogen until no more hydrogen is absorbed (about 1.2 liters are absorbed). The catalyst is removed by filtration and a solution containing 0.1 mole of potassium hydroxide in 20 ml. of water is added to the filtrate. The solution is then refluxed until no more starting material is observed by thin-layer chromatographic monitoring. The solvent is then removed by evaporation under vacuum and the resulting residue dissolved in 200 ml. of water and extracted three times with ethyl ether. The remaining aqueous phase is acidified with dilute aqueous hydrochloric acid and then extracted three times with ethyl acetate. The combined organic extracts are washed with water, then dried with anhydrous magnesium sulfate and filtered. The filtrate is evaporated to dryness, under vacuum, affording bicyclo[2.2.1]hept-7-yl acetic acid.

reactant | 7-carbethoxymethylene-bicyclo[2.2.1]heptane | 0.05 mole | C(=O)(OCC)C=C1C2CCC1CC2 | C11H16O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | potassium hydroxide | 0.1 mole | [OH-].[K+]
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | O | H2O
product | bicyclo[2.2.1]hept-7-yl acetic acid | C12CCC(CC1)C2CC(=O)O | C9H14O2
